US03984467
1-Cyclohexyl-3-(pentanimidoyl)urea
Following a procedure similar to that described in Example 23 but using 8.4 g. sodium in 1100 ml. dry acetone, 50 g. valeramidine hydrochloride, and 46.4 g. cyclohexyl isocyanate in 300 ml. dry acetone there was obtained, after recrystallization from isopropyl alcohol 58.4 g. 1-cyclohexyl-3-(pentanimidoyl)urea hydrochloride; m.p. 146°-148°C.

reactant | sodium | [Na] | Na
reactant | valeramidine hydrochloride | Cl.C(CCCC)(=N)N
reactant | cyclohexyl isocyanate | C1(CCCCC1)N=C=O | C7H11NO
solvent | acetone | CC(=O)C | C3H6O
product | 1-Cyclohexyl-3-(pentanimidoyl)urea | C1(CCCCC1)NC(=O)NC(CCCC)=N | C12H23N3O
